US04868331
5-Benzoylamino-5,6,7,8-tetrahydro-naphth-1-yl-oxyacetic acid
50 mmol of methyl 5-benzoylamino-5,6,7,8-tetrahydro-naphth-1-yl-oxyacetate are stirred in 60 ml of 1N NaOH and 120 ml of MeOH at room temperature for 6 hours. The methanol is stripped off, the NaOH solution is extracted by shaking with ethyl acetate and the extract is then acidified with 10% strength HCl solution. The acid solution is extracted by shaking 3 times with ethyl acetate or tetrahydrofuran, the extract is dried over Na2SO4 and evaporated and the residue is dried under a high vacuum.

reactant | methyl 5-benzoylamino-5,6,7,8-tetrahydro-naphth-1-yl-oxyacetate | 50 mmol | C(C1=CC=CC=C1)(=O)NC1C=2C=CC=C(C2CCC1)OCC(=O)OC | C20H21NO4
reactant | MeOH | 120 ml | CO | CH4O
solvent | NaOH | 1N, 60 ml | [OH-].[Na+]
product | 5-Benzoylamino-5,6,7,8-tetrahydro-naphth-1-yl-oxyacetic acid | C(C1=CC=CC=C1)(=O)NC1C=2C=CC=C(C2CCC1)OCC(=O)O | C19H19NO4
